US06946467B2
1-Boc-4-[2-(3-fluoropyridin-4-yl)ethyl]piperazine (6.0 g, 19.4 mmol) was dissolved in methanol (20 mL) and anisole (6 mL). To this solution, concentrated hydrochloric acid (15 mL) was added and the mixture stirred for 1 h. The solvents were removed under vacuum to provide a yellow solid. The residue was suspended in diethyl ether and sonicated for 1 h. The product was recovered by vacuum filtration, and the solid dried under vacuum to provide 1-[2-(3-fluoropyridin-4-yl)ethyl]piperazine trihydrochloride (5.2 g, 84%) as an off white solid.

reactant | 1-Boc-4-[2-(3-fluoropyridin-4-yl)ethyl]piperazine | 19.4 mmol, 6.0 g | C(=O)(OC(C)(C)C)N1CCN(CC1)CCC1=C(C=NC=C1)F | C16H24FN3O2
reactant | hydrochloric acid | 15 mL | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
solvent | anisole | 6 mL | C1(=CC=CC=C1)OC | C7H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-[2-(3-fluoropyridin-4-yl)ethyl]piperazine trihydrochloride | 5.2 g, 84% | Cl.Cl.Cl.FC=1C=NC=CC1CCN1CCNCC1 | InChI=1S/C11H16FN3.3ClH/c12-11-9-14-3-1-10(11)2-6-15-7-4-13-5-8-15;;;/h1,3,9,13H,2,4-8H2;3*1H
